US09278910B2
Prepared using General Procedure 7: To a stirring solution of 4-((4-amino-N-(2-(tert-butoxy)-2-oxoethyl)benzamido)methyl)phenyl 4-(heptyloxy)benzoate INT-4 (70 mg, 0.12 mmol) in DCM (2 mL) was added TEA (0.042 mL, 0.31 mmol) and 2-(4-methoxyphenyl)acetyl chloride (0.85 mL, 0.171 mmol). Additional TEA (0.042 mL, 0.31 mmol) and 2-(4-methoxyphenyl)acetyl chloride (0.85 mL, 0.171 mmol) were added and the reaction stirred for 30 min to yield 4-((N-(2-(tert-butoxy)-2-oxoethyl)-4-(2-(4-methoxyphenyl)acetamido)benzamido)methyl)phenyl 4-(heptyloxy)benzoate INT-5. The crude reaction mixture was concentrated to 1.0 mL volume and carried onto the next step without further purification. LCMS-ESI (m/z) calculated for C43H50N2O8: 722; no m/z observed, tR=3.24 min (Method 3).

reactant | 4-((4-amino-N-(2-(tert-butoxy)-2-oxoethyl)benzamido)methyl)phenyl 4-(heptyloxy)benzoate | C(CCCCCC)OC1=CC=C(C(=O)OC2=CC=C(C=C2)CN(C(C2=CC=C(C=C2)N)=O)CC(=O)OC(C)(C)C)C=C1 | C34H42N2O6
reactant | 2-(4-methoxyphenyl)acetyl chloride | 0.171 mmol, 0.85 mL | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
reactant | 2-(4-methoxyphenyl)acetyl chloride | 0.171 mmol, 0.85 mL | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-((N-(2-(tert-butoxy)-2-oxoethyl)-4-(2-(4-methoxyphenyl)acetamido)benzamido)methyl)phenyl 4-(heptyloxy)benzoate | C(CCCCCC)OC1=CC=C(C(=O)OC2=CC=C(C=C2)CN(C(C2=CC=C(C=C2)NC(CC2=CC=C(C=C2)OC)=O)=O)CC(=O)OC(C)(C)C)C=C1 | C43H50N2O8
